US09127167B2
In general, silanetriol is synthesized by hydrolyzing chlorosilane or alkoxysilane. As a typical example of using chlorosilane, Jutzi et al. reported synthesis of (1-trimethylsilylcyclopenta-2,-4-dienyl)silanetriol with a yield of 98% by dissolving (1-trimethylsilylcyclopenta-2,-4-dienyl)trichlorosilane, a chlorosilane with large steric hindrance, in ethyl ether, slowly adding an aniline aqueous solution and stirring at 0° C. for 3 hours, removing the resulting aniline salt through filtration and then removing ethyl ether under reduced pressure [Organometallics 1997, 16, 5377]. However, this method involves a complicated process of removing a large amount of salts and is limited in that it is applicable only to silanes having substituents with large steric hindrance. As a typical example of using alkoxysilane, Ishida et al. obtained cyclohexylsilanetriol by mixing cyclohexyltrimethoxysilane in an aqueous solution of acetic acid and stirring for 2 hours at room temperature [J. Polym. Sci. 1979, 17, 1807]. In addition, Korkin et al. reported that they obtained phenylsilanetriol with a yield of 68% by adding phenyltrimethoxysilane dropwise to an acetic acid aqueous solution, stirring for 4 hours while maintaining temperature at 5-10° C. and removing impurities from the resulting white solid through filtration [J. Organomet. Chem. 2003, 686, 313]. However, the method of using alkoxysilane is limited in that the resultant silanetriol should be insoluble in water.

reactant | silanetriol | [SiH](O)(O)O | H4O3Si
reactant | chlorosilane | Cl[SiH3] | ClH3Si
reactant | (1-trimethylsilylcyclopenta-2,-4-dienyl)silanetriol | C[Si](C1(C=CC=C1)[Si](O)(O)O)(C)C | C8H16O3Si2
reactant | (1-trimethylsilylcyclopenta-2,-4-dienyl)trichlorosilane | C[Si](C1(C=CC=C1)[Si](Cl)(Cl)Cl)(C)C | C8H13Cl3Si2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethyl ether | C(C)OCC | C4H10O
product | phenylsilanetriol | yield of 68% | C1(=CC=CC=C1)[Si](O)(O)O | C6H8O3Si
